US07041687B2
(2-tert-Butoxycarbonylamino-ethylamino)-(3-methoxy-phenyl)-acetic acid methyl ester:
To a solution of (3-methoxy-phenyl)-acetic acid methyl ester (19.6 mmol) in CCl4 was added N-bromosuccinimide (19.6 mmol) and the reaction mixture was irradiated for 2 hours. The reaction mixture was then concentrated in vacuo to afford the intermediate bromo-(3-methoxy-phenyl)-acetic acid methyl ester. To a solution of bromo-(3-methoxy-phenyl)-acetic acid methyl ester in THF (30 mL) under an atmosphere of nitrogen was added a solution of (2-amino-ethyl)-carbamic acid tert-butyl ester (20.6 mmol) in THF (20 mL) followed by K2CO3 (39.2 mmol, 2 equivalents). The reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was partitioned between water (50 mL) and EtOAc (2×50 mL), the combined organics were dried (sodium sulfate) and concentrated in vacuo to afford an oil. The oil was purified by silica gel column chromatography using as eluent EtOAc:petrol (1:1) to give the title compound as an oil in 53% yield.

reactant | bromo-(3-methoxy-phenyl)-acetic acid methyl ester | COC(C(C1=CC(=CC=C1)OC)Br)=O | C10H11BrO3
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 20.6 mmol | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | K2CO3 | 39.2 mmol, 2 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-tert-Butoxycarbonylamino-ethylamino)-(3-methoxy-phenyl)-acetic acid methyl ester | 53% yield | COC(C(C1=CC(=CC=C1)OC)NCCNC(=O)OC(C)(C)C)=O | C17H26N2O5
